US20010025039A1
Phosphorus oxychloride (3.85 ml) was added dropwise to N,N-dimethylformamide (25 ml) cooled in an ice-bath. The mixture was stirred 10 min before the addition of 2,3-dihydro-1H-3a,4-diaza-cyclopenta[a]indene (4.40 g) in N,N-dimethylformamide (7 ml). The mixture was stirred 45 min at 40° C., cooled to room temperature and concentrated aqueous sodium hydroxide added dropwise to pH10. The mixture was heated at 50° C. 10 min, cooled to room temperature and poured onto crushed ice. The organics were extracted with ethyl acetate (2×), the combined organic phases washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate/hexane 1:1 to 1:0) to afford 2,3-dihydro-1H-3a,4-diaza-cyclopenta[a]indene-8-carbaldehyde (2.4 g, 46%) as a light orange oil which solidified on standing. Mp. 137-141; MS (EI): 187 (M+H)+, 143, 100; 1H NMR (δ, CDCl3) 10.01 (s, 1H), 8.45 (dd, 1H, J=1,8 Hz), 8.32 (dd, 1H, J=1,5 Hz), 7.23 (dd, 1H, J=5,8 Hz), 4.31 (t, 2H, J=6 Hz), 3.38 (t, 2H, J=8 Hz), 2.76 (dt, 2H, J=6,8 Hz) ppm.

reactant | Phosphorus oxychloride | 3.85 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,3-dihydro-1H-3a,4-diaza-cyclopenta[a]indene | 4.40 g | C1CCN2C1=CC=1C=CC=NC21 | C10H10N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | pH10 | CC1=CC=C(C=C1)COC(=O)NNC(=O)C2=NC=CN=C2 | C14H14N4O3
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2,3-dihydro-1H-3a,4-diaza-cyclopenta[a]indene-8-carbaldehyde | 2.4 g, 46% | C1CCN2C1=C(C=1C=CC=NC21)C=O | C11H10N2O
